US05643562
Sodium 1,3-propanedisulfonate
This compound was prepared by a modification of the method described in Stone, G. C. H. (1936) J. Am. Chem. Soc., 58:488. 1,3-Dibromopropane (40.4 g, 0.20 mol) was treated with sodium sulfite (60.3 g, 0.50 mol) in water at reflux temperature for 48 h. Inorganic salts (sodium bromide and sodium sulfite) were removed by successive treatment of the resultant reaction mixture with barium hydroxide and silver(I)oxide. The solution was then neutralized with Amberlite-120(acid form) and decolorized with Norit-A. Barium ions were removed by treatment of the aqueous solution with Amberlite-120(sodium form) ion-exchange resin. The solvent was removed on a rotary evaporator, and the crude product was recrystallized from water-ethanol several times to give the title compound (42.5 g). The small amount of trapped ethanol was removed by dissolving the crystals in a minimum amount of water and then concentrating the solution to dryness. The pure product was further dried under high vacuum at 56° C. for 24 h: mp>300° C.;1H NMR (D2)δ: 3.06-3.13(m, 4 H, H-1 and H-3), 2.13-2.29(m, 2H, H-2);13C NMR (D2O) δ:52.3(C-1 and C-3), 23.8(C-2).

reactant | 1,3-Dibromopropane | 0.20 mol, 40.4 g | BrCCCBr | C3H6Br2
reactant | sodium sulfite | 0.50 mol, 60.3 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | Norit | C | CH4
solvent | water | O | H2O
product | Sodium 1,3-propanedisulfonate | 42.5 g | C(CCS(=O)(=O)[O-])S(=O)(=O)[O-].[Na+].[Na+] | InChI=1S/C3H8O6S2.2Na/c4-10(5,6)2-1-3-11(7,8)9;;/h1-3H2,(H,4,5,6)(H,7,8,9);;/q;2*+1/p-2
